US05843999
2-(4-Methylsulfonylphenyl)-3-phenylazulene-1-carboxylic acid (Compound 16)
To a solution of methyl 2 -(4-methylsulfonylphenyl)-3-phenylazulene-1-carboxylate (0.26 g) in MeOH (10.0 ml) was added 10% aqueous NaOH (2.0 ml), and the reaction mixture was heated under reflux for 6 hr. After removal of solvent, the aqueous layer was washed with Et2O. The solution was adjusted to pH 2.0 with 10% aqueous HCl, and extracted with EtOAc. The combined EtOAc extracts were washed with water and brine, dried over Na2SO4, and concentrated. The crude product was purified by SiO2 column chromatography (EtOAc/MeOH, 30: 1) to give the title compound (0.20 g) as violet crystals; mp 168°-169° C.

reactant | methyl 2 -(4-methylsulfonylphenyl)-3-phenylazulene-1-carboxylate | 0.26 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=CC=CC2=C1C1=CC=CC=C1)C(=O)OC | C25H20O4S
reactant | NaOH | 2.0 ml | [OH-].[Na+]
solvent | MeOH | 10.0 ml | CO | CH4O
product | 2-(4-Methylsulfonylphenyl)-3-phenylazulene-1-carboxylic acid | 0.20 g | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=CC=CC2=C1C1=CC=CC=C1)C(=O)O | C24H18O4S
